US04590271
B. 2,4-Diamino-5-(6,7-dimethoxy-2,3-dimethyl-4-benzofuranylmethyl)pyrimidine
A mixture of 0.70 g (0.002 mole) of 2,4-diamino-5-(3,4-dimethoxy-5-(1-methyl-2oxopropoxy)benzyl)pyrimidine in 11 g of polyphosphoric acid was stirred and heated on a steam bath for 20 minutes then poured onto 100 g of ice. The resulting mixture was basified with concentrated ammonium hydroxide, then extracted with methylene chloride (100 mL). The extract was washed with water (150 mL), dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title compound (0.52 g, 78%). Recrystallization from absolute ethanol gave an analytical sample; mp>249° dec. Anal. Calcd for C17H20N4O3 : C, 62.18, H, 6.14; N, 17.06. Found: C, 62.01; H, 6.17, N, 17.01.

reactant | 2,4-diamino-5-(3,4-dimethoxy-5-(1-methyl-2oxopropoxy)benzyl)pyrimidine | 0.002 mole, 0.70 g | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC(C(C)=O)C)OC)OC | C17H22N4O4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2,4-Diamino-5-(6,7-dimethoxy-2,3-dimethyl-4-benzofuranylmethyl)pyrimidine | 0.52 g, 78% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=C1C(=C(O2)C)C)OC)OC | C17H20N4O3
